US09024044B2
Step 1. Synthesis of 3-fluoro-4-hydroxylbenzamidine hydrochloride
To 3-fluoro-4-hydroxybenzonitrile (7.56 g, 55.2 mmol) were added ethanol (20 mL) and 4N-Hydrogen chloride in 1,4-Dioxane (100 mL), and the mixture was stirred at room temperature. After 5 days, the mixture was concentrated and dried with a vacuum pump. Then, the mixture was dissolved in ethanol (100 mL), ammonium carbonate (11.0 g, 115 mmol) was added, and the mixture was stirred at room temperature. After 12 hours, the solvent was evaporated, and the residue was dissolved in water (100 mL). The mixture was lyophilized to give the title compound (11.2 g, quantitative).

reactant | 3-fluoro-4-hydroxybenzonitrile | 55.2 mmol, 7.56 g | FC=1C=C(C#N)C=CC1O | C7H4FNO
reactant | ethanol | 20 mL | C(C)O | C2H6O
reactant | Hydrogen chloride | Cl | ClH
reactant | ammonium carbonate | 115 mmol, 11.0 g | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | 1,4-Dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 3-fluoro-4-hydroxylbenzamidine hydrochloride | 11.2 g | Cl.FC=1C=C(C(=N)N)C=CC1O | InChI=1S/C7H7FN2O.ClH/c8-5-3-4(7(9)10)1-2-6(5)11;/h1-3,11H,(H3,9,10);1H
